US04623734
A glass flask having an inner volume of 3 liters was fitted with a theremometer, a stirrer and a water separater. This reactor was charged with 240 g of a xylene solution containing 120 g of maleic anhydride. Then, a solution of 220 g of dodecylamine in 1880 g of xylene was added thereto gradually and piecemeal at 40° C. over a period of 120 minutes. After the addition was completed, the resultant mixture and 65.4 g of ortho-phosphoric acid (purity 89% by weight), 0.672 g of p-methoxyphenol and 0.05 g of zinc acetate added thereto were heated at 150° C. for four hours to effect reaction. Thereafter, the resultant reaction mixture was cooled to 30° C., washed with 400 ml of water, and separated into a water layer and a xylene layer. The xylene layer was filtered to effect removal of insolubles. The xylene layer now free from insolubles was distilled to expel xylene. Consequently there was obtained 260 g of slightly impure N-dodecyl maleimide. It was found to have purity of 91.2% by weight, indicating the yield thereof to be 75.3 mol% based on dodecylamine.

reactant | maleic anhydride | 120 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | dodecylamine | 220 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ortho-phosphoric acid | 65.4 g | P(O)(O)(O)=O | H3O4P
reactant | p-methoxyphenol | 0.672 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | xylene | 1880 g | C=1(C(=CC=CC1)C)C | C8H10
catalyst | zinc acetate | 0.05 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | xylene | 240 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | N-dodecyl maleimide | C(CCCCCCCCCCC)N1C(C=CC1=O)=O | C16H27NO2
